US07049310B2
b) 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-benzyl-1H-indole
NaH (60% dispersion in mineral oil, 0.15 g, 3.8 mmole) was added portionwise, allowing for gas evolution, to a solution of 3-[N-(benzyloxycarbonyl)-N-methylaminomethyl]-1H-indole (0.7 g, 2.5 mmole) in DMF (25 mL) at 0° C. When the NaH addition was complete, benzyl bromide (1.2 mL, 10.0 mmole) was added at 0° C. The reaction was stirred at 0° C. for 15 minutes then at RT overnight. The reaction was diluted with water and extracted with ethyl acetate. The combined extracts were dried over Na2SO4 and concentrated. Flash chromatography on silica gel (33% ethyl acetate/hexanes) gave the title compound (0.9 g, 93%) as an off white solid: MS (ES) m/e 385 (M+H)+.

reactant | NaH | 3.8 mmole, 0.15 g | [H-].[Na+]
reactant | 3-[N-(benzyloxycarbonyl)-N-methylaminomethyl]-1H-indole | 2.5 mmole, 0.7 g | C(C1=CC=CC=C1)OC(=O)N(C)CC1=CNC2=CC=CC=C12 | C18H18N2O2
reactant | benzyl bromide | 10.0 mmole, 1.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-benzyl-1H-indole | 0.9 g, 93% | C(C1=CC=CC=C1)OC(=O)N(C)CC1=CN(C2=CC=CC=C12)CC1=CC=CC=C1 | C25H24N2O2
